US07842696B2
Biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide (150 mg, 0.46 mmol) and phthalic anhydride (69 mg, 0.46 mmol) in toluene (20 mL) were heated to reflux for 2 hours. The reaction mixture was then concentrated under reduced pressure. The resulting residue was purified by Preparative TLC (using silicagel 60F254 coated glass plate (20×20 cm, 1 mm (thickness) as the stationary phase with the mobile phase being 10% MeOH in Chloroform) to afford 106 mg (48.5% yield) of 2-(4-{2-[(biphenyl-4-carbonyl)-amino]-acetyl}-piperazine-1-carbonyl)-benzoic acid, LC-MS purity: 86.97%, 1H NMR: (DMSO) δ 8.6 (t, 1H), 7.9 (d, 2H), 7.85-7.7 (m, 4H), 7.5 (t, 2H), 7.4 (t, 1H), 7.3-7.2 (bs, 2H), 7.0 (bs, 1H), 4.25-4.05 (m, 2H), 3.75-3.4 (m, 6H), 3.1-3.0 (bs, 2H).

reactant | Biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 0.46 mmol, 150 mg | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1 | C19H21N3O2
reactant | phthalic anhydride | 0.46 mmol, 69 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-{2-[(biphenyl-4-carbonyl)-amino]-acetyl}-piperazine-1-carbonyl)-benzoic acid | 106 mg, 48.5% yield | C1(=CC=C(C=C1)C(=O)NCC(=O)N1CCN(CC1)C(=O)C1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1 | C27H25N3O5
